US04293694
6 g of 7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylic acid was dissolved in 35 ml of concentrated sulfuric acid and stirred while cooling with ice, followed by dropwise addition of a mixture of 4.3 ml of concentrated nitric acid having a specific gravity and 15 ml of the concentrated sulfuric acid. After completion of the addition, the resulting mixture was stirred for one hour at room temperature and poured into 200 g of ice to precipitate yellow crystals. Recrystallization from dimethylformamide-water gave 7 g of 3-nitro-7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylic acid having a melting point of 251°-253° C.

reactant | 7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylic acid | 6 g | O=C1C(=CN2C3=C1C=CC=C3C3CCCCC23)C(=O)O | C16H15NO3
reactant | nitric acid | 4.3 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 35 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | 3-nitro-7a,8,9,10,11,11a-hexahydro-4-oxo-4H-pyrido[3,2,1-jk]carbazol-5-carboxylic acid | 7 g | [N+](=O)([O-])C1=CC=C2C3CCCCC3N3C2=C1C(C(=C3)C(=O)O)=O | C16H14N2O5
